US08314119B2
2-chloro-N-phenyloxazole-4-carboxamide
Prepared from ethyl 2-chlorooxazole-4-carboxylate (45.4 mg, 0.258 mmol) and aniline (24 mg, 0.258 mmol) as described in Example 154A: 1H NMR (500 MHz, methanol-D4) δ ppm 7.13-7.18 (m, 1H), 7.32-7.38 (m, 2H), 7.65-7.71 (m, 2H), 8.53 (s, 1H). MS (APCI) m/z=223 (M+H)+.

reactant | ethyl 2-chlorooxazole-4-carboxylate | 0.258 mmol, 45.4 mg | ClC=1OC=C(N1)C(=O)OCC | C6H6ClNO3
reactant | aniline | 0.258 mmol, 24 mg | NC1=CC=CC=C1 | C6H7N
product | 2-chloro-N-phenyloxazole-4-carboxamide | ClC=1OC=C(N1)C(=O)NC1=CC=CC=C1 | C10H7ClN2O2
